US04102885
To a solution of phenoxycarbonylisocyanate (7.0 g., 0.043 mole) in 50 ml. of dioxane is added 4-aminoveratrole (6.57 g., 0.043 mole) under a nitrogen atmosphere while maintaining a temperature of 20°-25°. Following the addition of the 4-aminoveratrole, a second 50 ml. portion of dioxane is added and the solution refluxed for a period of one hour. Concentration of the reaction mixture under reduced pressure provides an oily solid residue. Titration of this residual material with about 40 ml. of cold carbon tetrachloride followed by crystallization from acetonitrile provides analytically pure 1-(3,4-dimethoxyphenyl)-3-phenoxycarbonylurea, m.p. 139.5°-142°.

reactant | phenoxycarbonylisocyanate | 0.043 mole, 7.0 g | O(C1=CC=CC=C1)C(=O)N=C=O | C8H5NO3
reactant | 4-aminoveratrole | 0.043 mole, 6.57 g | NC=1C=C(C(=CC1)OC)OC | C8H11NO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(3,4-dimethoxyphenyl)-3-phenoxycarbonylurea | COC=1C=C(C=CC1OC)NC(=O)NC(=O)OC1=CC=CC=C1 | C16H16N2O5
